US05521216
A mixture of 146 mg of 7-isopropoxy-5-methoxy-2-methylsulfinylchromone (0.493 mmol ) , 93 mg of 4-hydroxybenzenethiol(0.740 mmol), 102 mg of potassium carbonate (0.740 mmol) and 6 ml acetone was stirred for 2 hours at room temperature. The reaction solution was neutralized with dilute hydrochloric acid and extracted twice with ethyl acetate, and the organic layer was washed with saturated NaCl water and was then dried over sodium sulfate anhydride. The solvent was distilled off under reduced pressure, and the crude product was subjected to recrystallization from acetone-methanol, to give 102 mg of 2-(4-hydroxyphenylthio)-7-isopropoxy-5-methoxychromone (57% yield).

reactant | 7-isopropoxy-5-methoxy-2-methylsulfinylchromone | 0.493 mmol, 146 mg | C(C)(C)OC1=CC(=C2C(C=C(OC2=C1)S(=O)C)=O)OC | C14H16O5S
reactant | 4-hydroxybenzenethiol | 0.740 mmol, 93 mg | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 0.740 mmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 2-(4-hydroxyphenylthio)-7-isopropoxy-5-methoxychromone | 102 mg, 57% yield | OC1=CC=C(C=C1)SC=1OC2=CC(=CC(=C2C(C1)=O)OC)OC(C)C | C19H18O5S
